US07195751B2
Synthesis of Morpholine Acetic Acid
Bromoacetic acid (2 g, 14.4 mole) was dissolved in tetrahydrofuran (50 mL) and added dropwise to a stirred solution of morpholine (3.76 g, 43.2 mole) in tetrahydrofuran (THF, 20 mL). The solution was stirred at room temperature for three days. The white solid (4.17 g) was filtered, washed with THF (100 mL), and recrystallised from hot ethanol (EtOH), Yield: 2.59 g: IR:1740 cm-1. For the two different isobaric versions of morpholine acetic acid, either bromoacetic-1-13C acid (Aldrich PN 27,933-1) or bromoacetic-2-13C acid (Aldrich PN 27,935-8) was substituted for bromoacetic acid.

reactant | Bromoacetic acid | 14.4 mole, 2 g | BrCC(=O)O | C2H3BrO2
reactant | morpholine | 43.2 mole, 3.76 g | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Morpholine Acetic Acid | N1(CCOCC1)CC(=O)O | C6H11NO3
